US08236798B2
74.3 3-Amino-N-cyclopropyl-2-hydroxy-4-phenylbutanamide Hydrochloride
HCl (4 M in dioxane, 16 mL, 64.00 mmol) was added dropwise to a solution of tert-butyl 4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-ylcarbamate (7.5 g, 22.43 mmol) in DCM (130 mL). After stirring for 5 h additional HCl (4 M in dioxane, 5 mL, 20.00 mmol) was added and the stirring was continued overnight. The solvent was reduced in vacuo and methyl-tert-butyl-ether (200 mL) was added. The precipitate obtained was filtered, washed with methyl-tert-butyl-ether and n-pentane and dried providing the title compound (5.8 g, 96%).

reactant | HCl | 64.00 mmol, 4 M, 16 mL | Cl | ClH
reactant | tert-butyl 4-(cyclopropylamino)-3-hydroxy-4-oxo-1-phenylbutan-2-ylcarbamate | 22.43 mmol, 7.5 g | C1(CC1)NC(C(C(CC1=CC=CC=C1)NC(OC(C)(C)C)=O)O)=O | C18H26N2O4
reactant | HCl | 20.00 mmol, 4 M, 5 mL | Cl | ClH
reactant | methyl-tert-butyl-ether | 200 mL | COC(C)(C)C | C5H12O
solvent | DCM | 130 mL | C(Cl)Cl | CH2Cl2
product | 3-Amino-N-cyclopropyl-2-hydroxy-4-phenylbutanamide Hydrochloride | 5.8 g, 96% | Cl.NC(C(C(=O)NC1CC1)O)CC1=CC=CC=C1 | InChI=1S/C13H18N2O2.ClH/c14-11(8-9-4-2-1-3-5-9)12(16)13(17)15-10-6-7-10;/h1-5,10-12,16H,6-8,14H2,(H,15,17);1H
